US07153855B2
To a solution of 4-[3-[2-(cyclopentylamino)-4-pyrimidinyl]-7-(cyclopropylamino)pyrazolo[1,5-a]pyridin-2-yl]phenol (146 mg, 0.34 mmol) in N,N-dimethylformamide (3 mL) was added cesium carbonate (0.22 g, 0.68 mmol) and (bromomethyl)cyclopropane (66 μL, 0.68 mmol). The reaction was stirred for 1 hour at room temperature, then partitioned between water and ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (3:1 to 1:1 hexanes-ethyl acetate) provided 3-[2-(cyclopentylamino)-4-pyrimidinyl]-N-cyclopropyl-2-[4-(cyclopropylmethoxy)phenyl]pyrazolo[1,5-a]pyridin-7-amine (90.4 mg, 55%) as an off-white solid. 1H NMR (CDCl3): δ 7.99 (d, 1 H), 7.84 (d, 1 H), 7.55 (d, 2 H), 7.34 (t, 1 H), 6.98 (d, 2 H), 6.39–6.32 (m, 3 H), 5.08 (broad, 1 H), 4.37 (m, 1 H), 3.87 (d, 2 H), 2.68 (m, 1 H), 2.10 (m, 2 H), 1.80–1.27 (m, 6 H), 0.89 (m, 2 H), 0.78–0.65 (m, 4 H), 0.39 (m, 2 H); MS m/z 481 (M+1).

reactant | 4-[3-[2-(cyclopentylamino)-4-pyrimidinyl]-7-(cyclopropylamino)pyrazolo[1,5-a]pyridin-2-yl]phenol | 0.34 mmol, 146 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NC2CC2)C2=CC=C(C=C2)O | C25H26N6O
reactant | cesium carbonate | 0.68 mmol, 0.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (bromomethyl)cyclopropane | 0.68 mmol, 66 μL | BrCC1CC1 | C4H7Br
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-[2-(cyclopentylamino)-4-pyrimidinyl]-N-cyclopropyl-2-[4-(cyclopropylmethoxy)phenyl]pyrazolo[1,5-a]pyridin-7-amine | 90.4 mg, 55% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NC2CC2)C2=CC=C(C=C2)OCC2CC2 | C29H32N6O
